US04444788
(43a) (5Z,13E,18Z)-(8R,9R,11R,12R,15S,16RS)-9,19-Dichloro-16-methyl-11,15-bis(tetrahydropyran-2-yloxy)-5,13,18-prostatrienoic Acid Methyl Ester
A solution of 1.16 g of (5Z,13E,18Z)-(8R,9S,11R,12R,15S,16RS)-9-hydroxy-19-chloro-16-methyl-11,15-bis(tetrahydropyran-2-yloxy)-5,13,18-prostatrienoic acid methyl ester, 785 mg of triphenylphosphine, and 15 ml of a solution of 0.97 ml of carbon tetrachloride, 0.79 ml of pyridine, and 48 ml of acetonitrile was stirred under argon at room temperature for 65 hours. The mixture was then diluted with 15 ml of ether and 30 ml of hexane, further stirred for 10 minutes, and filtered. The evaporation residue was extracted with a mixture of 5 ml of ether and 95 ml of hexane, filtered, and concentrated to dryness under vacuum. The residue was purified by column chromatography on silica gel with hexane/10-50% ethyl acetate as the eluent. In this way, 457 mg of the desired compound was isolated.

reactant | (5Z,13E,18Z)-(8R,9S,11R,12R,15S,16RS)-9-hydroxy-19-chloro-16-methyl-11,15-bis(tetrahydropyran-2-yloxy)-5,13,18-prostatrienoic acid methyl ester | 1.16 g | COC(CCC\C=C/C[C@H]1[C@H](C[C@H]([C@@H]1\C=C\[C@H](C(C\C=C(\C)/Cl)C)OC1OCCCC1)OC1OCCCC1)O)=O | C32H51ClO7
reactant | triphenylphosphine | 785 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | carbon tetrachloride | 0.97 ml | C(Cl)(Cl)(Cl)Cl | CCl4
reactant | pyridine | 0.79 ml | N1=CC=CC=C1 | C5H5N
solvent | ether | 15 ml | CCOCC | C4H10O
solvent | hexane | 30 ml | CCCCCC | C6H14
solvent | acetonitrile | 48 ml | C(C)#N | C2H3N
product | (5Z,13E,18Z)-(8R,9R,11R,12R,15S,16RS)-9,19-Dichloro-16-methyl-11,15-bis(tetrahydropyran-2-yloxy)-5,13,18-prostatrienoic Acid Methyl Ester | 457 mg | COC(CCC\C=C/C[C@H]1[C@@H](C[C@H]([C@@H]1\C=C\[C@H](C(C\C=C(\C)/Cl)C)OC1OCCCC1)OC1OCCCC1)Cl)=O | C32H50Cl2O6
